US06316485B1
A solution of sodium nitrite (0.36 g) in water (0.5 ml) was added to an ice cooled mixture of 1-(3-cyano-4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine (1.08 g), concentrated hydrochloric acid (15 ml) and acetic acid (35 ml). The mixture was stirred at 0° C. for 30 minutes and added portionwise to a mixture of cuprous chloride (1.37 g) and concentrated hydrochloric acid (10 ml) at ambient temperature. The mixture was refluxed for 1 hour, poured into water and extracted with toluene. The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel eluting with toluene to give 3-chloro-1-(3-cyano-4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole (0.29 g).

reactant | sodium nitrite | 0.36 g | N(=O)[O-].[Na+]
reactant | 1-(3-cyano-4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine | 1.08 g | C(#N)C=1C=C(C=CC1OC)N1N=C(C=C1C1=CC=C(C=C1)SC)N | C18H16N4OS
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 0.5 ml | O | H2O
product | 3-chloro-1-(3-cyano-4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole | 0.29 g | ClC1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC(=C(C=C1)OC)C#N | C18H14ClN3OS
